US04695573
9-(4-Methylbenzylamino)-1,2,3,4-tetrahydroacridin-1-ol
3,4-Dihydro-9-(4-methylbenzylamino)acridin-1(2H)-one (5.71 g) was dissolved in 100 ml of dry THF, chilled with ice-water, and then 9.0 ml of 1M lithium aluminum hydride in THF was added. After 15 minutes the reaction was quenched by the sequential addition of 0.4 ml of water, 0.4 ml of 15% sodium hydroxide, and 1.2 ml of water. The inorganic salts were filtered off and washed with warm THF and then the combined organic phase was evaporated and the residue recrystallized from dichloromethane-pentane to obtain 4.77 g of analytically pure product, mp 176°-178° C.

reactant | 3,4-Dihydro-9-(4-methylbenzylamino)acridin-1(2H)-one | 5.71 g | CC1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)=O)C=C1 | C21H20N2O
reactant | lithium aluminum hydride | 1M, 9.0 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 9-(4-Methylbenzylamino)-1,2,3,4-tetrahydroacridin-1-ol | CC1=CC=C(CNC=2C3=CC=CC=C3N=C3CCCC(C23)O)C=C1 | C21H22N2O
